US05192797
Ethyl [3-[5-(naphthalen-1-yl)-1,3-dioxan-2-yl]propyl]carbamate
4 g (13 mmol) of 2-aminopropyl-5-(naphthalen-1-yl)-1,3-dioxane hydrochloride are stirred at ambient temperature for 10 min. with 4 ml of triethylamine in 200 ml of dichloromethane, 1.4 g (13 mmol) of ethyl chloroformate in 20 ml of dichloromethane are then added, drop by drop, and the mixture is stirred at ambient temperature for 3 h. Dilute hydrochloric acid is added, and the organic phase is separated, washed with water and with a saturated solution of sodium hydrogen carbonate, dried over magnesium sulphate, filtered and evaporated to dryness. An oil is obtained which crystallises in pentane; the solid is filtered and purified by chromatography on a silica gel column eluted with ethyl acetate. 2.4 g (7 mmol) of product are finally isolated.

reactant | 2-aminopropyl-5-(naphthalen-1-yl)-1,3-dioxane hydrochloride | 13 mmol, 4 g | Cl.NC(CC1OCC(CO1)C1=CC=CC2=CC=CC=C12)C
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 13 mmol, 1.4 g | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Ethyl [3-[5-(naphthalen-1-yl)-1,3-dioxan-2-yl]propyl]carbamate | 7 mmol, 2.4 g | C1(=CC=CC2=CC=CC=C12)C1COC(OC1)CCCNC(OCC)=O | C20H25NO4
